US04645727
A mixture of 21 grams (0.09 mole) of leucoquinizarine, 30 grams (0.22 mole) of p-(2-aminoethyl)phenol in 150 milliliters of pyridine was refluxed for 12 hours. The mixture was cooled to room temperature and poured into 2 liters of water. Thereafter, the product was filtered, washed with water, and recrystillized from acetic acid to yield 26 grams, (60%) of 1,4-bis[2-(p-hydroxyphenyl)ethylamino]anthraquinone as a blue powder, m.p. 240°-242° C.; vis (DMF), λmax 644 nm (ε16,600); 598 nm (ε14,100); ms 478 (M+); Calcd. for C30H26N2O4 : C, 75.29; H, 5.48; N, 5.86; O, 13.38; Found: C, 75.46; H, 5.32; N, 5.69; O, 13.26.

reactant | leucoquinizarine | 0.09 mole, 21 grams | C1CC(=O)C2=C(C3=CC=CC=C3C(=C2C1=O)O)O | C14H10O4
reactant | p-(2-aminoethyl)phenol | 0.22 mole, 30 grams | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | water | 2 liters | O | H2O
solvent | pyridine | 150 milliliters | N1=CC=CC=C1 | C5H5N
product | 1,4-bis[2-(p-hydroxyphenyl)ethylamino]anthraquinone | 60% | OC1=CC=C(C=C1)CCNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCCC1=CC=C(C=C1)O | C30H26N2O4
